US09034866B2
Similar to as described in General Procedure G, 9-bromo-8-fluoro-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide was reacted with and 2-(1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-1,2,4-triazol-3-yl)but-3-yn-2-ol to give 8-fluoro-9-(3-hydroxy-3-(1((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide. A solution of crude give 8-fluoro-9-(3-hydroxy-3-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide (150 mg, 0.28 mmol, 1.00 equiv) and hydrofluoric acid (2 mL) in CH3CN (4 mL) was stirred for 3 h at room temperature. The pH value of the solution was adjusted to 10 with saturated NaHCO3 (10 mL). The resulting solution was extracted with dichloromethane, dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (50 mg) was purified by Prep-HPLC with the following conditions (1#pre-HPLC-006(waters)): Column, sunfire prep C18 19*150 mm 5 um; mobile phase, Water with 0.5% CF3COOH and CH3CN (10% CH3CN up to 45% in 12 min, up to 100% in 3 min, down to 10% in 2 min); Detector, UV 220/254 nm. 10 mg of product was obtained. This was treated by strong anion exchange resin (cleanert SAX-SPE). This resulted in 7.2 mg (6%) of the titled compound as an off-white solid.

reactant | 9-bromo-8-fluoro-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide | BrC1=CC2=C(OCCC3=C2N=C(S3)C(=O)N)C=C1F | C12H8BrFN2O2S
reactant | 2-(1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-1,2,4-triazol-3-yl)but-3-yn-2-ol | C[Si](CCOCN1N=C(N=C1)C(C)(C#C)O)(C)C | C12H21N3O2Si
product | 8-fluoro-9-(3-hydroxy-3-(1((2-(trimethylsilyl)ethoxy)methyl)-1H-1,2,4-triazol-5-yl)but-1-yn-1-yl)-4,5-dihydrobenzo[2,3]oxepino[4,5-d]thiazole-2-carboxamide | FC=1C(=CC2=C(OCCC3=C2N=C(S3)C(=O)N)C1)C#CC(C)(C1=NC=NN1COCC[Si](C)(C)C)O | C24H28FN5O4SSi
